US05658902
Step 2: Preparation of 6-iodo-4-chloro-2-trichloromethyl quinazolin
A suspension of 6-iodo-2-trichloromethyl-1,2-dihydro-quinazolin-4-one (38.9 g=100 mmol) in POCl3 (500 mL) was heated to reflux for 12 hours. The homogeneous solution was cooled and excess POCl3 was distilled under vacuum. Viscous oil obtained was poured over crushed ice and triturated vigorously to give grey solid, which was dissolved in toluene (200 mL), filtered and evaporated under vacuo to give off-white crystalline solid. Mp 154°-155° C. Elemental Analysis: Calculated for C9H3Cl4IN2, C: 26.50, H, 0.74, N: 6.87; Found: C: 26.15, H: 0.79, N. 6.68.

reactant | 6-iodo-2-trichloromethyl-1,2-dihydro-quinazolin-4-one | 100 mmol, 38.9 g | IC=1C=C2C(NC(NC2=CC1)C(Cl)(Cl)Cl)=O | C9H6Cl3IN2O
reactant | POCl3 | 500 mL | O=P(Cl)(Cl)Cl | Cl3OP
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | 6-iodo-4-chloro-2-trichloromethyl quinazolin | IC=1C=C2C(=NC(=NC2=CC1)C(Cl)(Cl)Cl)Cl | C9H3Cl4IN2
